US06143763
6-{3-[1-Methyl-3-cyclohexyl-3-(2-acetyloxybutyl)ureido]propoxy}-carbostyril (1.63 g) is added to methanol (10 ml), and thereto is added dropwise a 10% aqueous potassium hydroxide solution (10 ml). The mixture is stirred at room temperature overnight, and concentrated under reduced pressure to remove the solvent. The resultant is poured into water, and extracted with chloroform. The extract is concentrated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography (solvent; methylene chloride:methanol=20: 1), and recrystallized from methylene chloride-diethyl ether to give 6-{3-[1-methyl-3-cyclohexyl-3-(2-hydroxybutyl)ureido]propoxy}carbostyril (0.6 g) as a white powder.

reactant | 6-{3-[1-Methyl-3-cyclohexyl-3-(2-acetyloxybutyl)ureido]propoxy}-carbostyril | 1.63 g | CN(C(=O)N(CC(CC)OC(C)=O)C1CCCCC1)CCCOC=1C=C2C=CC(NC2=CC1)=O | C26H37N3O5
reactant | potassium hydroxide | 10 ml | [OH-].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | 6-{3-[1-methyl-3-cyclohexyl-3-(2-hydroxybutyl)ureido]propoxy}carbostyril | 0.6 g | CN(C(=O)N(CC(CC)O)C1CCCCC1)CCCOC=1C=C2C=CC(NC2=CC1)=O | C24H35N3O4
